US04912231
A. (cis)-4-Hydroxy-L-proline, methyl ester hydrochloride
Into a 1 liter Parr hydrogenation bottle was placed 29.90 g (107.12 mmol) of (cis)-1-benzyloxycarbonyl-4-hydroxy-L-proline, methyl ester (reference: J. Am. Chem. Soc., 79, 185, (1957)), 400 ml of methanol, 9.83 ml (117.90 mmol) of concentrated HCl, and 3.00 g of 10% palladium on activated carbon. The mixture was shaken under a hydrogen atmosphere at 50 psi for 4 hours, then filtered through a Millipore filter; the palladium was washed with 100 ml of methanol. The filtrate was concentrated under vacuum to a minimal volume, then treated with 250 ml of ethyl acetate, which caused a white precipitate to form. The solids were filtered, washed twice with ethyl acetate and once with hexane, and dried under vacuum to yield 20.05 g (93.1%) of the title compound.

reactant | (cis)-1-benzyloxycarbonyl-4-hydroxy-L-proline, methyl ester | 107.12 mmol, 29.90 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)OC)C[C@@H](C1)O | C14H17NO5
reactant | HCl | 117.90 mmol, 9.83 ml | Cl | ClH
catalyst | palladium on activated carbon | 3.00 g | [Pd] | Pd
solvent | methanol | 400 ml | CO | CH4O
product | (cis)-4-Hydroxy-L-proline, methyl ester hydrochloride | 20.05 g, 93.1% | Cl.O[C@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C6H11NO3.ClH/c1-10-6(9)5-2-4(8)3-7-5;/h4-5,7-8H,2-3H2,1H3;1H/t4-,5-;/m0./s1
